US09056874B2
tert-Butyl 4-(5-cyanobenzo[d]oxazole-2-carbonyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate
tert-Butyl-4-((5-cyanobenzo[d]oxazol-2-yl)(hydroxy)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (163 mg, 0.376 mmol) was dissolved in DCM (3.76 mL) and MnO2 (327 mg, 3.76 mmol) was added. The reaction mixture was stirred at rt for 15 h. The reaction mixture was filtered through Celite® and washed three times with DCM. The filtrate was evaporated to dryness to give the title compound. MS (ESI+) m/z 432.16 (M+H).

reactant | tert-Butyl-4-((5-cyanobenzo[d]oxazol-2-yl)(hydroxy)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 0.376 mmol, 163 mg | C(C)(C)(C)OC(=O)N1C=CC2=C(C(=CC(=C12)C)OC)C(O)C=1OC2=C(N1)C=C(C=C2)C#N | C24H23N3O5
solvent | DCM | 3.76 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 3.76 mmol, 327 mg | O=[Mn]=O
product | tert-Butyl 4-(5-cyanobenzo[d]oxazole-2-carbonyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(#N)C=1C=CC2=C(N=C(O2)C(=O)C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)C1 | C24H21N3O5
